US05622954
Under a nitrogen atmosphere, a stirred suspension of 29.5 grams (0.24 mole) of anhydrous chromium(II) dichloride in 400 mL of tetrahydrofuran is cooled to 0° C., and a solution of 7.6 grams (0.04 mole) of difluoro-4-chlorophenylacetaldehyde and 31.5 grams (0.08 mole) of iodoform in 200 mL of tetrahydrofuran is added dropwise. Upon completion of addition, the reaction mixture is stirred at 0° C. for three hours. After this time the reaction mixture is poured into about 1200 mL of water, and the mixture is extracted with three 150 mL portions of diethyl ether. The combined extracts are dried with sodium sulfate and filtered. The filtrate is concentrated under reduced pressure, yielding 1,1-difluoro-1-(4-chlorophenyl)-3-iodo-2-propene.

reactant | difluoro-4-chlorophenylacetaldehyde | 0.04 mole, 7.6 grams | FC(C=O)(C1=CC=C(C=C1)Cl)F | C8H5ClF2O
reactant | iodoform | 0.08 mole, 31.5 grams | C(I)(I)I | CHI3
reactant | water | about 1200 mL | O | H2O
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
catalyst | chromium(II) dichloride | 0.24 mole, 29.5 grams | [Cl-].[Cl-].[Cr+2]
product | 1,1-difluoro-1-(4-chlorophenyl)-3-iodo-2-propene | FC(C=CI)(C1=CC=C(C=C1)Cl)F | C9H6ClF2I
